US04400318
2,5-Dimethyl-N-(2-Hydroxyethyl)-8-Methoxy-1,2,3,4-Tetrahydroquinoline
2,5-Dimethyl-8-methoxy-1,2,3,4-tetrahydroquinoline (189 g, 1.0 m) was reacted with ethylene oxide (52.0 g) in an autoclave at 160° C. for 10 hrs. The reaction mixture from the autoclave was distilled under vacuum to yield 169 g (72%) of product which boiled at 150°-138° C. at 1.7/0.5 mm Hg. A small amount of material was slurried in hexane, and after filtering and drying the product melted at 65°-67° C.

reactant | 2,5-Dimethyl-8-methoxy-1,2,3,4-tetrahydroquinoline | 189 g | CC1NC2=C(C=CC(=C2CC1)C)OC | C12H17NO
reactant | ethylene oxide | 52.0 g | C1CO1 | C2H4O
product | 2,5-Dimethyl-N-(2-Hydroxyethyl)-8-Methoxy-1,2,3,4-Tetrahydroquinoline | 169 g, 72% | CC1N(C2=C(C=CC(=C2CC1)C)OC)CCO | C14H21NO2
